US04092311
Ethyl 3-[6-(p-fluorophenyl)-3-pyridazinyl]carbazate
A mixture of 5.0 g. of 6-(p-fluorophenyl)-3-chloropyridazine, 5.0 g. of ethyl carbazate and 50 ml. of n-butanol is refluxed for 2 hours. The solvent is removed and the residue washed with water and recrystallized from ethanol to give 1.75 g. of 3-[6-(p-fluorophenyl)-3-pyridazinyl]carbazate as crystals, m.p. 173°-174° C.

reactant | 6-(p-fluorophenyl)-3-chloropyridazine | FC1=CC=C(C=C1)C1=CC=C(N=N1)Cl | C10H6ClFN2
reactant | ethyl carbazate | C(NN)(=O)OCC | C3H8N2O2
reactant | 3-[6-(p-fluorophenyl)-3-pyridazinyl]carbazate | FC1=CC=C(C=C1)C1=CC=C(N=N1)NNC(=O)[O-]
solvent | n-butanol | C(CCC)O | C4H10O
product | Ethyl 3-[6-(p-fluorophenyl)-3-pyridazinyl]carbazate | FC1=CC=C(C=C1)C1=CC=C(N=N1)NNC(=O)OCC | C13H13FN4O2
